US08119641B2
3-(2-Amino-benzoylamino)-1H-furo[3,2-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide
To a solution of 3-(2-Nitro-benzoylamino)-1H-furo[3,2-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide (1 g, 0.0023 mol) in ethanol (30 mL) tin chloride dihydrate (2.08 g, 0.00923 mol) was added. The mixture was heated to reflux for 4 hours. After cooling, the solvent was evaporated to dryness and the crude purified by flash column chromatography on silica gel (eluting with dichloromethane-methanol 4713. The isolated product was triturated with ethyl ether and dry under vacuum, furnishing 550 mg of the title compound (59% yield).

reactant | 3-(2-Nitro-benzoylamino)-1H-furo[3,2-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide | 0.0023 mol, 1 g | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC=2NN=C(C2O1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C22H19N5O5
reactant | ethanol | 0.00923 mol, 30 mL, 2.08 g | C(C)O | C2H6O
product | 3-(2-Amino-benzoylamino)-1H-furo[3,2-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide | 550 mg, 59% yield | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC=2NN=C(C2O1)NC(C1=C(C=CC=C1)N)=O | C22H21N5O3
